US09381200B2
Step-2: Preparation of trans-3-{N′-(6-carboxymethoxy-7-oxo-1,6-diaza-bicyclo[3.2.1]octane-2-carbonyl)-hydrazinocarbonyl}-(R)-piperidin-1-carboxylic acid tert-butyl ester
To a clear solution of trans-3-{N′-(6-ethoxycarbonylmethoxy-7-oxo-1,6-diaza-bicyclo[3.2.1]octane-2-carbonyl)-hydrazinocarbonyl}-(R)-piperidin-1-carboxylic acid tert-butyl ester (600 mg, 1.20 mmol) in tetrahydrofuran (32 ml) and water (12 ml) was added lithium hydroxide (43.2 mg, 1.8 mmol) at 0° C. The reaction mixture was stirred for 3 hours and was neutralized to pH 6 by addition of aqueous 1 N potassium hydrogen sulfate. It was exacted with ethyl acetate (3×25 ml). Layers were separated and aqueous layer was acidified with 1 N potassium hydrogen sulfate to pH 1 and extracted with ethyl acetate (3×25 ml). The Organic layer was dried over sodium sulfate and evaporated to dryness under vacuum to provide 160 mg of tilted intermediate as a solid in 27% yield.

reactant | trans-3-{N′-(6-ethoxycarbonylmethoxy-7-oxo-1,6-diaza-bicyclo[3.2.1]octane-2-carbonyl)-hydrazinocarbonyl}-(R)-piperidin-1-carboxylic acid tert-butyl ester | 1.20 mmol, 600 mg | C(C)(C)(C)OC(=O)N1C[C@@H](CCC1)C(=O)NNC(=O)[C@@H]1N2C(N([C@H](CC1)C2)OCC(=O)OCC)=O | C22H35N5O8
reactant | lithium hydroxide | 1.8 mmol, 43.2 mg | [OH-].[Li+]
reactant | potassium hydrogen sulfate | 1 N | S(=O)(=O)(O)[O-].[K+]
reactant | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 32 ml | O1CCCC1 | C4H8O
solvent | water | 12 ml | O | H2O
product | trans-3-{N′-(6-carboxymethoxy-7-oxo-1,6-diaza-bicyclo[3.2.1]octane-2-carbonyl)-hydrazinocarbonyl}-(R)-piperidin-1-carboxylic acid tert-butyl ester | 160 mg, 27% yield | C(C)(C)(C)OC(=O)N1C[C@@H](CCC1)C(=O)NNC(=O)[C@@H]1N2C(N([C@H](CC1)C2)OCC(=O)O)=O | C20H31N5O8
